US07906517B2
4-(3-{[(5′-Isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-5-trifluoromethyl-phenoxy)butyric acid (69 mg) is dissolved in ethanol (1 ml) and thereto is added a 1M-aqueous sodium hydroxide solution (92 μl) and the mixture is stirred at room temperature for 3 minutes, and concentrated under reduced pressure to give 4-(3-{[(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-5-trifluoromethyl-phenoxy)butyric acid sodium salt (66 mg). MS (m/z): 745 [M−Na]+

reactant | 4-(3-{[(5′-Isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-5-trifluoromethyl-phenoxy)butyric acid | 69 mg | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(C1=NC=C(C=N1)N1CCOCC1)CC=1C=C(OCCCC(=O)O)C=C(C1)C(F)(F)F)OC | C38H40F6N4O5
reactant | sodium hydroxide | 92 μl | [OH-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 4-(3-{[(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-5-trifluoromethyl-phenoxy)butyric acid sodium salt | 66 mg | [Na+].C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(C1=NC=C(C=N1)N1CCOCC1)CC=1C=C(OCCCC(=O)[O-])C=C(C1)C(F)(F)F)OC | InChI=1S/C38H40F6N4O5.Na/c1-24(2)26-6-9-34(51-3)33(18-26)32-8-7-28(37(39,40)41)17-27(32)23-48(36-45-20-30(21-46-36)47-10-13-52-14-11-47)22-25-15-29(38(42,43)44)19-31(16-25)53-12-4-5-35(49)50;/h6-9,15-21,24H,4-5,10-14,22-23H2,1-3H3,(H,49,50);/q;+1/p-1
